US04205170
To 40 mg of 2-(5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-9-yl)-propionic acid was added 15 ml of ethanol containing hydrogen chloride and the mixture was stirred at room temperature for 3 hours. The solvent was distilled off to obtain the residue, to which was added ice-water, and the resulting mixture was alkalified with 5% sodium hydrogencarbonate and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain oily substance, which was chromatographed over silica gel, eluted with benzene/chloroform(1/1), and there was obtained 35 mg of ethyl 2-(5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-9-yl)-propionate as oil.

reactant | 2-(5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-9-yl)-propionic acid | 40 mg | N1=CC=CC=2CCC3=C(SC21)C=C(C=C3)C(C(=O)O)C | C16H15NO2S
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | ethyl 2-(5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-9-yl)-propionate | 35 mg | N1=CC=CC=2CCC3=C(SC21)C=C(C=C3)C(C(=O)OCC)C | C18H19NO2S
